Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Plavix / Atorvastatin
 
Attending: ___
 
___ Complaint:
Chest pressure.
 
Major Surgical or Invasive Procedure:
1. Cardiac Catherization 
 
History of Present Illness:
___ yo female with history of HTN, HL, and CAD s/p PCI with 
stents ___ years ago presents with substernal chest pressure. She 
notes that she is tired at baseline, but that she has felt 
extreme fatigue x3-4weeks. She has also noticed lightheadedness 
and dizziness and suffered a mechanical fall about ___ weeks 
ago. During this time, she also noticed a sensation of SOB, but 
never had increased work of breathing. Three days ago she saw 
her PCP for this reason and at that point EKG revealed new T 
wave changes different from baseline. D dimer was normal. She 
was scheduled for an outpt stress test on ___. However, she 
developed substernal chest pressure around noon after unloading 
groceries. She notes this was less in severity and a different 
type of pain than the last time she had chest pain when she was 
stented. In ___, she had a painful band like sensation under 
her breasts and around her flanks, and was found to have a 95% 
LAD stenosis. She denies radiation of pain, SOB, but notes 
lightheadedness. This chest pain lasted for two hours until she 
arrived in the emergency room and layed down. Of note, she 
recently stopped statin therapy in ___. She was on Lipitor for 
a while until she stopped in ___ for leg cramps. She has also 
tried simvastatin and another statin, but not pravastatin.  
.  
In the ED, initial vitals were 97.4 84 137/79 15 100% RA. Labs 
and imaging significant for EKG with TWI in V1-V3, no ST 
changes. CXR was within normal limits. Patient was given 
aspirin. She was guaiac negative and started on a heparin gtt. 
She was subsequently chest pain free. Vitals on transfer were 68 
123/83 13 95% on RA. On arrival to the floor, the patient is 
nervous but chest pain free.  
.  
Cardiac review of systems is notable for DOE after ___ blocks 
which is new for the patient as she previously could walk 
without restriction. She denies paroxysmal nocturnal dyspnea, 
orthopnea, ankle edema, palpitations, syncope or presyncope.  
.  
ROS:  
+mild nausea, facial discomfort  
-F/C, cough, vomiting, diarrhea, constipation, abdominal pain, 
trouble urinating, visual changes, headache, any prior history 
of stroke, TIA, deep venous thrombosis, pulmonary embolism, 
bleeding at the time of surgery, myalgias, joint pains, cough, 
hemoptysis, black stools or red stools.  
 
Past Medical History:
1. CARDIAC RISK FACTORS: +Dyslipidemia, +Hypertension  
2. CARDIAC HISTORY: Coronary artery disease  
-CABG:  
-PERCUTANEOUS CORONARY INTERVENTIONS: Bare metal stent in LAD in 
___ when she had a catheterization that showed 95% mid-LAD 
stenosis  
-PACING/ICD:  
3. OTHER PAST MEDICAL HISTORY:  
Hypertension  
Hyperlipidemia  
Crohn's disease  
Chronic facial neuralgia s/p stereotactic ablation of the 
trigeminal ganglion that did not work  
Hypothyroidism  
Osteoporosis  
.  
PSH:  
carpal tunnel release  
bilateral breast augmentation in ___  
radiofrequency ablation  
surgical treatment for left elbow fracture  
 
Social History:
___
Family History:
Father died of coronary artery disease at age ___. Her mother 
died of vascular dementia and pneumonia. One of her first 
cousins has a genetic syndrome causing hypercholesterolemia. No 
family history of arrhythmia, cardiomyopathies, or sudden 
cardiac death; otherwise non-contributory.  

 
Physical Exam:
Upon admission:
VS: 98.0 133/64 72 18 100% on RA 59.5kg  
GENERAL: WDWN female in NAD. Oriented x3. Mood, affect 
appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthalesma.  

NECK: Supple without JVD.  
CARDIAC: PMI located in ___ intercostal space, midclavicular 
line. RR, normal S1, S2. No m/r/g. No thrills, lifts. No S3 or 
S4.  
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. CTAB, no crackles, 
wheezes or rhonchi.  
ABDOMEN: +BS, soft, NTND. No HSM or tenderness. Abd aorta not 
enlarged by palpation. No abdominial bruits.  
EXTREMITIES: Trace ___ edema bilaterally to ankles.  
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
PULSES: Right: Carotid 2+ DP 2+ ___ 2+ Left: Carotid 2+ DP 2+ ___ 
2+  
.
At discharge:
VS: 98.0 101/51 58 18 98% on RA 59.4kg  
GENERAL: WDWN female in NAD. Oriented x3. Mood, affect 
appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthalesma.  

NECK: Supple without JVD.  
CARDIAC: PMI located in ___ intercostal space, midclavicular 
line. RR, normal S1, S2. No m/r/g. No thrills, lifts. No S3 or 
S4.  
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. CTAB, no crackles, 
wheezes or rhonchi.  
ABDOMEN: +BS, soft, NTND. No HSM or tenderness. Abd aorta not 
enlarged by palpation. No abdominial bruits.  
EXTREMITIES: Trace ___ edema bilaterally to ankles.  
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
PULSES: Right: Carotid 2+ DP 2+ ___ 2+ Left: Carotid 2+ DP 2+ ___ 
2+  
 
Pertinent Results:
Labs during admission:
___ 01:00PM BLOOD WBC-4.8 RBC-4.49 Hgb-14.4 Hct-41.9 MCV-93 
MCH-31.9 MCHC-34.2 RDW-12.4 Plt ___
___ 01:00PM BLOOD Neuts-63.3 ___ Monos-5.7 Eos-2.9 
Baso-1.1
___ 01:00PM BLOOD ___ PTT-22.6 ___
___ 01:00PM BLOOD Glucose-94 UreaN-16 Creat-0.7 Na-141 
K-4.3 Cl-101 HCO3-32 AnGap-12
___ 07:20AM BLOOD Calcium-9.4 Phos-4.0 Mg-2.3 Cholest-243*
___ 07:20AM BLOOD Triglyc-43 HDL-81 CHOL/HD-3.0 
LDLcalc-153*

Cardiac Enzymes:
___ 01:00PM BLOOD cTropnT-<0.01
___ 08:55PM BLOOD CK-MB-2 cTropnT-<0.01
___ 07:20AM BLOOD CK-MB-3 cTropnT-<0.01

Imaging:
___ EKG: NSR at 78, TWI in V1-V3, TW flattening in III and 
aVF, STD in V4-V5

___ CXR: Both lungs appear well inflated with no focal 
consolidation, pleural effusion or pneumothorax. The cardiac, 
mediastinal and hilar contours are within normal limits. 
Incidental note is made of bilateral breast implants. 
IMPRESSION: No evidence of acute cardiopulmonary process. 

___ cardiac cath: 1. Coronary angiography in this right 
dominant system 
demonstrated no angiographically apparent disease.  The LMCA, 
LAD, CX 
and RCA had no angiographically apparent disease.  The stent in 
the 
mid-LAD was patent.  2.  Limited resting hemodynamics revealed 
normal 
systemic arterial blood pressures with a central aortic pressure 
of 
99/42 mmHg.  3.  Left ventriculography revealed a normal LVEF. 

___ TTE: The left atrium is normal in size. The estimated 
right atrial pressure is ___ mmHg. Left ventricular wall 
thicknesses are normal. The left ventricular cavity size is 
normal. Overall left ventricular systolic function is normal 
(LVEF>55%). Right ventricular chamber size and free wall motion 
are normal. The aortic valve leaflets (3) appear structurally 
normal with good leaflet excursion and no aortic stenosis or 
aortic regurgitation. The mitral valve leaflets are mildly 
thickened. The estimated pulmonary artery systolic pressure is 
normal. There is a trivial/physiologic pericardial effusion.   
 
Brief Hospital Course:
___ yo female with history of HTN, HL, and CAD s/p PCI with 
stents ___ years ago presents with substernal chest pressure and 
EKG changes that were similar to that of her prior ACS. This was 
concerning for ACS or instent restenosis of her prior LAD lesion 
however cardiac cath was normal.  
.  
# CORONARIES: History of CAD with prior 95% LAD stenosis s/p 
stenting in ___. Her risk factors include HTN, HL, 
postmenopausal female, and recently stopping her statin therapy. 
She has had DOE for the past month, which may be an anginal 
equivalent. She presented with chest pain with T wave changes on 
EKG.  However, troponin was negative x3 and cardiac cath was 
within normal limits.  She was continued on aspirin 81 daily, 
started on metoprolol succinate 12.5mg daily, and pravastatin 
20mg.  She will follow up with Dr. ___ as an outpatient. 
.  
# PUMP: No history of heart failure and last cath revealed EF 
63% in ___. However, she has lower extremity edema on exam 
likely a result of amlodipine. TTE within normal limits.  
.  
# RHYTHM: Normal sinus rhythm on EKG.  She was monitored on 
telemetry.  
.  
# Hypertension: Stable.  Amlodipine was discontinued.  She was 
continued on valsartan with metoprolol.
.  
# Hyperlipidemia: Previously on multiple statins with 
intolerance, namely leg cramps.  She was started on pravastatin 
20mg which she has not previously tried as her LDL was found to 
be 153.  Her outpatient providers should watch for the 
development of myalgias as an outpatient.
.  
# Crohn's Disease: Stable without symptoms.  She was continued 
on her home regimen on pentasa, keflex, vitamin d, and iron.
.  
# Hypothyroidism: Stable without symptoms.  Continued 
levothyroxine.
.  
# Chronic trigeminal neuralgia: Minimal pain during admission.  
She was continued on her home regimen of methadone, cymbalta, 
zoloft, and carbamazepine suppositories.
.  
# Osteoporosis: She was continued on calcium and vitamin d.
.  
# Code Status: During this admission, she was confirmed full 
code, with no prolonged measures.
 
Medications on Admission:
Methadone 10 mg TID  
Zoloft 200 mg Daily  
carbamazepime suppository 175mg q4h - patient has home med  
Cymbalta 40 mg daily  
aspirin 81 mg Daily  
calcium citrate-vitamin D3 315 mg-200 2 Tablet(s) Twice Daily  
ergocalciferol (vitamin D2) 50,000 unit q2weeks  
iron 40 mg daily  
Multivitamin one Tab daily  
amlodipine-valsartan 5 mg-320 mg 1 Tab daily  
levothyroxine 88 mcg Daily  
Pentasa 500 mg Cap 3 capsules am, 2 capsules noon, 3 capsules 
evening  
Keflex ___ mg Once Daily  
 
Discharge Medications:
1. carbamazepine (bulk)     Powder Sig: One Hundred ___ 
(175) mg Miscellaneous Q4H (every 4 hours).  
2. aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
3. ferrous sulfate 300  mg (60 mg Iron) Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
4. levothyroxine 88 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
5. metoprolol succinate 25 mg Tablet Extended Release 24 hr Sig: 
___ Tablet Extended Release 24 hr PO once a day.
Disp:*15 Tablet Extended Release 24 hr(s)* Refills:*2*
6. mesalamine 250 mg Capsule, Extended Release Sig: Six (6) 
Capsule, Extended Release PO BID (2 times a day): In the AM and 
the ___.  
7. mesalamine 250 mg Capsule, Extended Release Sig: Four (4) 
Capsule, Extended Release PO DAILY12 (): at noon.  
8. multivitamin     Capsule Sig: One (1) Capsule PO once a day.  

9. cephalexin 250 mg Capsule Sig: One (1) Capsule PO Q24H (every 
24 hours).  
10. pravastatin 20 mg Tablet Sig: One (1) Tablet PO HS (at 
bedtime).
Disp:*30 Tablet(s)* Refills:*2*
11. valsartan 320 mg Tablet Sig: One (1) Tablet PO once a day.
Disp:*30 Tablet(s)* Refills:*2*
12. ergocalciferol (vitamin D2) 50,000 unit Capsule Sig: One (1) 
Capsule PO q2weeks.  
13. calcium citrate-vitamin D3 315-200 mg-unit Tablet Sig: One 
(1) Tablet PO twice a day.  
14. methadone 10 mg Tablet Sig: One (1) Tablet PO three times a 
day.  
15. sertraline 100 mg Tablet Sig: Two (2) Tablet PO once a day.  

16. duloxetine 20 mg Capsule, Delayed Release(E.C.) Sig: Two (2) 
Capsule, Delayed Release(E.C.) PO once a day.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis: Chest Pain, Coronary Artery Disease, 
Hyperlipidemia
Secondary Diagnosis:  Crohn's Disease, Chronic Facial Neuralgia, 
Hypertension
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
Chest pain free.
 
Discharge Instructions:
It was a pleasure taking care of you during your stay here at 
___. 

You were admitted to ___ with chest pain. You had a cardiac 
catherization that showed no obstructing lesions in your 
coronary arteries.  There was no narrowing of your known stents 
to explain the pain.  The pain may be due to a spasm of your 
blood vessels that feed the heart. 

The following changes were made to your medications:
START: Metoprolol succinate 12.5 mg by mouth daily. 
START: Pravastatin 20 mg by mouth daily at night. 
STOP: Amlodipine 
 
Followup Instructions:
___